US09278085B2
(E)-1-(6-chloro-3-methylhex-2-enyl)-2,5-dimethoxy-3,4,6-trimethylbenzene (725.8 mg, 2.334 mmol) and NaI (3.09 g, 20.61 mmol) were dissolved into acetone (10 mL) and heated to reflux for 18 h. The reaction mixture was cooled to room temperature and the cloudy solution added to H2O (50 mL) and of a 50% EtOAc/hexanes solution (50 mL), the layers separated and the aqueous phase extracted with hexanes (3×25 mL), then MTBE (2×25 mL). The organics were combined and washed with saturated NaCl solution (2×25 mL) and dried over anhydrous Na2SO4. Concentration yielded 930.0 mg (99.0%) of 1-((E)-6-iodo-3-methylhex-2-enyl)-2,5-dimethoxy-3,4,6-trimethylbenzene as a pale yellow oil. 1H NMR (400 MHz, CDCl3) d 5.12 (t, J=6.4 Hz, 1H), 3.65 (s, 6H), 3.36 (d, J=6.0 Hz, 2H), 3.12 (t, J=7.2 Hz, 2H), 2.18 (S 9H), 2.07 (t, J=7.2 Hz, 2H), 1.91 (t, J=7.2 HZ, 2H), 1.77 (s, 3H), 13C NMR (100 MHz, CDCl3) d 153.1, 152.6, 133.0, 131.3, 128.4, 127.9, 127.6, 124.7, 60.9, 60.1, 40.1, 31.7, 26.1, 16.1, 12.8, 12.7, 12.2.

reactant | (E)-1-(6-chloro-3-methylhex-2-enyl)-2,5-dimethoxy-3,4,6-trimethylbenzene | 2.334 mmol, 725.8 mg | ClCCC/C(=C/CC1=C(C(=C(C(=C1C)OC)C)C)OC)/C | C18H27ClO2
reactant | NaI | 20.61 mmol, 3.09 g | [Na+].[I-]
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | H2O | 50 mL | O | H2O
product | 1-((E)-6-iodo-3-methylhex-2-enyl)-2,5-dimethoxy-3,4,6-trimethylbenzene | 930.0 mg, 99.0% | ICCC/C(=C/CC1=C(C(=C(C(=C1C)OC)C)C)OC)/C | C18H27IO2
